US08030497B2
[4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(3-methoxy-phenyl)-methanone
To a solution of 0.16 ml oxalylchloride in 4 ml dichloromethane, 0.27 ml DMSO (in 0.8 ml dichloromethane is slowly added at −60° C. This mixture is stirred under argon at −60° C. for 0.5 h. Then 250 mg (0.463 mmol) [4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(3-methoxy-phenyl)-methanol (in 2 ml dichloromethane) are added and stirring is continued at −60° C. for 1 h. 1 ml triethylamine is added and the reaction mixture is allowed to warm to room temperature, poured on water and extracted (3×) with dichloromethane. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=2:1) to afford 179 mg of the title compound as a colorless oil.

reactant | oxalylchloride | 0.16 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(3-methoxy-phenyl)-methanol | 0.463 mmol, 2 ml, 250 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C(O)C2=CC(=CC=C2)OC | C28H31BrN2O4
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | DMSO | 0.27 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | [4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(3-methoxy-phenyl)-methanone | 179 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C(=O)C2=CC(=CC=C2)OC | C28H29BrN2O4
